US08124606B2
Compound 107: (R)-3-chloro-N-ethyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide:
To a suspension of (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one (154 mg, 0.613 mmol) in propiononitrile (1.2 mL) was added (cyanomethyl)trimethylphosphonium iodide (179 mg, 0.735 mmol) and 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride (186 mg, 0.613 mmol) and DIEA (321 μl, 1.838 mmol). The vial was heated to 90° C. for 16 hours. The crude rxn was cooled to RT, DMSO (1 ml) was added, and purified via HPLC (55-90, basic). The fractions were collected, concentrated until a precipitate was visible and filtered. The solids were washed with water and collected to retrieve the product as a white solid (80 mg, 26% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.67 (s, 1H), 8.43 (t, J=5.6 Hz, 1H), 7.87 (d, J=2.0 Hz, 1H), 7.76 (dd, J=8.6, 2.0 Hz, 1H), 7.70 (d, J=2.0 Hz, 1H), 7.17 (d, J=8.3 Hz, 1H), 7.01 (d, J=2.0 Hz, 1H), 4.88 (dt, J=13.6, 2.7 Hz, 1H), 4.27 (dd, J=10.7, 3.2 Hz, 1H), 3.40 (s, 2H), 3.18-3.30 (m, 2H), 2.90-3.16 (m, 5H), 2.67-2.85 (m, 3H), 2.52 (br. s., 4H), 2.45 (dd, J=13.5, 1.6 Hz, 1H), 1.10 (t, J=7.2 Hz, 3H). [M+H] calc'd for C24H29ClN6O2S, 501. found, 501.

reactant | (R)-3-(hydroxymethyl)-6a,7,9,10-tetrahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-6(5H)-one | 0.613 mmol, 154 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C11H13N3O2S
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.735 mmol, 179 mg | [I-].C(#N)C[P+](C)(C)C
reactant | 3-chloro-N-ethyl-4-(piperazin-1-yl)benzamide hydrochloride | 0.613 mmol, 186 mg | Cl.ClC=1C=C(C(=O)NCC)C=CC1N1CCNCC1
reactant | DIEA | 1.838 mmol, 321 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | propiononitrile | 1.2 mL | C(CC)#N | C3H5N
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | (R)-3-chloro-N-ethyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 80 mg, 26% yield | ClC=1C=C(C(=O)NCC)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O | C24H29ClN6O2S
